US07989438B2
Step 2: methyl (7R)-7-((tert-butoxycarbonyl){2-[2-(methylamino)ethoxy]ethyl}amino)-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate
Methyl (7R)-7-[{2-[2-(benzyloxy)ethoxy]ethyl}(tert-butoxycarbonyl)amino]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate was dissolved in MeOH/AcOH 10:1 (0.06M) and palladium on carbon (10%, 0.25 eq) was added. The mixture was degassed and hydrogen atmosphere was applied. The mixture was left stirring at RT. After 2 days all volatiles were evaporated in vacuo and the residue was filtered on celite using EtOAc and MeOH as solvents. After evaporation of the solvents in vacuo methyl (7R)-7-{(tert-butoxycarbonyl)[2-(2-hydroxyethoxy)ethyl]amino}-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate was obtained. DMAP (0.2 eq) and MsCl (1.2 eq) was added to a 0.06M solution of previous crude and NEt3 (1.5 eq)) in dry DCM and the mixture was stirred at RT for 90 min. After quenching with sat NaHCO3 the mixture was extracted with DCM and the combined organic phases washed with 1N HCl and brine, dried and concentrated. A 0.07M solution of crude mesylate and NEt3 (4 eq) was treated with 2M MeNH2/THF (22 eq) at 80° C. overnight, evaporation gave a residue that was used as such. Yield 70% (three steps). (ES+) m/z 606 (M+H)+.

reactant | Methyl (7R)-7-[{2-[2-(benzyloxy)ethoxy]ethyl}(tert-butoxycarbonyl)amino]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | C(C1=CC=CC=C1)OCCOCCN([C@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC=C2)C(=O)OC(C)(C)C | C41H50N2O7
reactant | MsCl | 1.2 eq | CS(=O)(=O)Cl | CH3ClO2S
reactant | NEt3 | 1.5 eq | CCN(CC)CC | C6H15N
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | NEt3 | 4 eq | CCN(CC)CC | C6H15N
reactant | MeNH2 THF | 2M, 22 eq | CN.C1CCOC1
solvent | MeOH AcOH | 0.06M | CO.CC(=O)O
catalyst | palladium on carbon | 0.25 eq | [Pd] | Pd
catalyst | DMAP | 0.2 eq | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | methyl (7R)-7-((tert-butoxycarbonyl){2-[2-(methylamino)ethoxy]ethyl}amino)-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | Yield 70% | C(C)(C)(C)OC(=O)N([C@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC=C2)CCOCCNC | C35H47N3O6
